US07199120B2
N-Butyl-2,3-bis[2-(butylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine was prepared by treating 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine with n-butylamine as described in Example 7. 1H NMR, (400 MHz, CDCl3): δ 8.35 (d, 1H), 8.09 (d, 1H), 7.62 (d, 1H), 7.30 (t, 1H), 6.93 (m, 1H), 6.57 (d, 1H), 6.40 (d, 1H), 6.20 (d, 1H), 5.17 (m, 1H), 5.08 (m, 1H), 3.34–3.46 (m, 6H), 1.75 (m, 2H), 1.35–1.66 (m, 10H), 0.90–1.00 (m, 9H); MS m/z 488 (M+1).

reactant | 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=NC(=NC=C2)S(=O)C | C17H13ClN6O2S2
reactant | n-butylamine | C(CCC)N | C4H11N
product | N-Butyl-2,3-bis[2-(butylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCC)C2=NC(=NC=C2)NCCCC | C27H37N9
